US07943613B2
To a degassed solution of 1-bromo-4-(trifluoromethylsulfanyl)benzene (4.8 g, 18.7 mmol) in tetrahydrofuran (40 mL) was added in the following order: copper(I) iodide (106 mg, 0.56 mmol), tetrakis(triphenylphosphine)palladium (647 mg, 0.56 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (3.36 mL, 22.3 mmol). The resulting mixture was degassed one more time and a solution of propargyl alcohol (1.30 mL, 22.3 mmol) in tetrahydrofuran (5 mL) was added over period of 10 min. The reaction mixture was slowly heated up to 50° C. and then stirred at this temperature for 6 h and then left to stand at ambient temperature over night. The mixture was diluted with ether (50 mL) and acidified with 5% hydrochloric acid to pH 2. Ethereal solution was washed with water (2×15 mL), saturated solution of sodium hydrogen carbonate (15 mL) and brine (15 mL), dried with anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 85:15) affording 3-[4-(trifluoromethylsulfanyl)phenyl]prop-2-yn-1-ol.

reactant | 1-bromo-4-(trifluoromethylsulfanyl)benzene | 18.7 mmol, 4.8 g | BrC1=CC=C(C=C1)SC(F)(F)F | C7H4BrF3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 22.3 mmol, 3.36 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | propargyl alcohol | 22.3 mmol, 1.30 mL | C(C#C)O | C3H4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | copper(I) iodide | 0.56 mmol, 106 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.56 mmol, 647 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[4-(trifluoromethylsulfanyl)phenyl]prop-2-yn-1-ol | FC(F)(F)SC1=CC=C(C=C1)C#CCO | C10H7F3OS
